US08067638B2
Preparation of 3-amino-2,6-difluorobenzoic acid
A solution of 2,6-difluoro-3-nitrobenzoic acid and 10% palladium carbon added to 10 ml of methanol was stirred in a hydrogen atmosphere at room temperature for 2 hours. The catalyst was filtered off and then the solvent was removed under a reduced pressure to obtain the desired product (Yield: 93%) as a white solid.

reactant | 2,6-difluoro-3-nitrobenzoic acid | FC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])F | C7H3F2NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | [C].[Pd]
solvent | methanol | 10 ml | CO | CH4O
product | 3-amino-2,6-difluorobenzoic acid | Yield: 93% | NC=1C(=C(C(=O)O)C(=CC1)F)F | C7H5F2NO2
